US04268514
A mixture of xanthene-9-spiro-4'-tetrahydropyran-2'-one (0.5 g.) and methylamine (5 ml.) is heated at 250° C. for 4 hours in a steel bomb. The gummy residue (0.52 g.) is chromatographed on silica gel, eluting with increasing concentrations of chloroform in light petroleum (b.p. 60°-80° C.). Elution with 25% chloroform in light petroleum gives, on evaporation of the solvent, a solid residue which is recrystallised from ethanol to give 1'-methylxanthene-9-spiro-4'-piperidin-2'-one, m.p. 158°-159° C.

reactant | xanthene-9-spiro-4'-tetrahydropyran-2'-one | 0.5 g | O1C(CC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12)=O | C17H14O3
reactant | methylamine | 5 ml | CN | CH5N
product | 1'-methylxanthene-9-spiro-4'-piperidin-2'-one | CN1C(CC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12)=O | C18H17NO2
